US05650510
A solution of 2-diethylphosphonomethoxy-1-ethanol (40.7 g, 192 mmol) in 500 mL of CH2Cl2 was cooled to 0° C. and then triethylamine (29.1 g, 288 mmol) was added in one portion, followed by addition of methanesulfonyl chloride (26.4 g, 230 mmol) dropwise over 20 min. The reaction mixture was kept at 0° C. for 0.5 hours and then poured into water. The aqueous phase was extracted with two portions of CH2Cl2 and the combined organic phases dried over MgSO4, filtered and concentrated to afford 54.4 g (98%) of 1-methanesulfonyloxy-2-(diethylphosphonomethoxy)ethane as a clear, pale orange oil. The mesylate could be employed without purification or purified by column chromatography on silica gel (5% methanol in CH2Cl2). 1H NMR (200 MHz, CDCl3): 4.46-4.50 (m,2H), 4.26 (quintet, J=6.8 Hz,4H), 3.92-3.99(m,4H), 3.20 (s,3H), and 1.40 (t, J=7 Hz, 6H).

reactant | 2-diethylphosphonomethoxy-1-ethanol | 192 mmol, 40.7 g | C(C)OP(=O)(OCC)COCCO | C7H17O5P
reactant | triethylamine | 288 mmol, 29.1 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 230 mmol, 26.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 1-methanesulfonyloxy-2-(diethylphosphonomethoxy)ethane | 54.4 g, 98% | CS(=O)(=O)OCCOCP(=O)(OCC)OCC | C8H19O7PS
